US05686492
a) 6-Fluoro-3-nitro-2-trifluoromethyl-phenylacetic acid
6.33 g (100.62 mmol) of fuming nitric acid (100%) and 25.80 g (91.44 mmol) of trifluoromethanesulfonic anhydride are mixed under ice bath cooling. 200 ml of nitroethane and 12.93 g (91.44 mmol) of phosphorus pentoxide are added to this mixture. 20.31 g (91.44 mmol) of 2-fluoro-6-trifluoromethylphenylacetic acid, suspended in 40 ml of nitroethane, is now instilled under cooling. It is stirred for 1 hour at 0° C. and then allowed to reach room temperature and stirred overnight at room temperature. The thin-layer chromatogram no longer shows starting material. The suspension is poured on 350 ml of cooled, saturated sodium bicarbonate solution. It is extracted three times with dichloromethane. Then, it is acidified with 4N hydrochloric acid, extracted five times with ethyl acetate. The organic phase is washed with water, dried on sodium sulfate and evaporated to dryness in a vacuum. The residue is crystallized from ether/pentane.

reactant | nitric acid | 100.62 mmol, 6.33 g | [N+](=O)(O)[O-] | HNO3
reactant | trifluoromethanesulfonic anhydride | 91.44 mmol, 25.80 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | phosphorus pentoxide | 91.44 mmol, 12.93 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 2-fluoro-6-trifluoromethylphenylacetic acid | 91.44 mmol, 20.31 g | FC1=C(C(=CC=C1)C(F)(F)F)CC(=O)O | C9H6F4O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | nitroethane | 40 ml | [N+](=O)([O-])CC | C2H5NO2
solvent | nitroethane | 200 ml | [N+](=O)([O-])CC | C2H5NO2
product | 6-Fluoro-3-nitro-2-trifluoromethyl-phenylacetic acid | FC1=CC=C(C(=C1CC(=O)O)C(F)(F)F)[N+](=O)[O-] | C9H5F4NO4
